US05753664
3,5-Dimethyl-2-[4-[4-[(thiazolidin-2-yl)thiomethyl]benzoyl]benzylthio]-4(3H)-quinazolinone
A solution of 3,5-dimethyl-2-mercapto-4(3H)-quinazolinone (1.03 g), 4,4'-bis (bromomethyl)benzophenone (1.75 g), 2-mercaptothiazoline (600 mg), and 1N-sodium hydroxide/water (11 ml) in DMF (20 ml) was stirred at room temperature for 30 minutes. This reaction mixture was concentrated and the residue was dissolved in ethyl acetate, washed with water, dried, and concentrated. The residue was purified by silica gel column chromatography (hexane: ethyl acetate: chloroform=3:1:1) and crystallized from methanol to provide the title compound as colorless solid (489 mg).

reactant | 3,5-dimethyl-2-mercapto-4(3H)-quinazolinone | 1.03 g | CN1C(=NC2=CC=CC(=C2C1=O)C)S | C10H10N2OS
reactant | 4,4'-bis (bromomethyl)benzophenone | 1.75 g | BrCC1=CC=C(C(=O)C2=CC=C(C=C2)CBr)C=C1 | C15H12Br2O
reactant | 2-mercaptothiazoline | 600 mg | SC=1SCCN1 | C3H5NS2
reactant | sodium hydroxide water | 11 ml | [OH-].[Na+].O
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 3,5-Dimethyl-2-[4-[4-[(thiazolidin-2-yl)thiomethyl]benzoyl]benzylthio]-4(3H)-quinazolinone | 489 mg | CN1C(=NC2=CC=CC(=C2C1=O)C)SCC1=CC=C(C=C1)C(C1=CC=C(C=C1)CSC1SCCN1)=O | C28H27N3O2S3
